US09382222B2
Step 4: (1-Methanesulfonyl-piperidine-4-carboxylic acid {4-[isobutyl-(2-trifluoromethyl-phenyl)-sulfamoyl]-phenyl}-amide)
A solution of 4-amino-N-isobutyl-N-(2-trifluoromethyl-phenyl)-benzenesulfonamide (100 mg, 0.268 mmol), 1-(methylsulfonyl)-4-piperidinecarbonyl chloride (108 mg, 0.48 mmol) and DIPEA (138 μL, 0.804 mmol) in DCM (8 mL) was stirred at room temperature for 3 hours. The mixture was diluted with DCM, washed with 1 N aqueous HCl, saturated aqueous NaHCO3, water and brine, dried over Na2SO4 and concentrated under vacuum. Purification by silica gel column chromatography (0-100% EtOAc in cyclohexane) and triturating with Et2O/pentane gave the title compound (98 mg, 65%). 1H NMR (400 MHz, DMSO δ 10.42 (s, 1H), 7.85 (d, J=8.8 Hz, 2H), 7.82 (dd, J=7.7, 1.9 Hz, 1H), 7.62-7.63 (m, 1H), 7.58 (d, J=8.8 Hz, 2H), 6.99 (d, J=7.8 Hz, 1H), 3.63 (d, J=11.8 Hz, 2H), 3.38-3.39 (m, 1H), 3.11 (dd, J=13.4, 4.7 Hz, 1H), 2.90 (s, 3H), 2.76-2.78 (m, 2H), 1.95 (d, J=13.5 Hz, 2H), 1.63-1.68 (m, 2H), 1.44-1.48 (m, 1H), 1.09 (t, J=7.0 Hz, 1H), 0.88 (d, J=6.5 Hz, 3H), 0.71 (d, J=6.7 Hz, 3H). LCMS (m/z, Method B) ES+ 562.0 [M+1]+.

reactant | 4-amino-N-isobutyl-N-(2-trifluoromethyl-phenyl)-benzenesulfonamide | 0.268 mmol, 100 mg | NC1=CC=C(C=C1)S(=O)(=O)N(C1=C(C=CC=C1)C(F)(F)F)CC(C)C | C17H19F3N2O2S
reactant | 1-(methylsulfonyl)-4-piperidinecarbonyl chloride | 0.48 mmol, 108 mg | CS(=O)(=O)N1CCC(CC1)C(=O)Cl | C7H12ClNO3S
reactant | DIPEA | 0.804 mmol, 138 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 1-Methanesulfonyl-piperidine-4-carboxylic acid {4-[isobutyl-(2-trifluoromethyl-phenyl)-sulfamoyl]-phenyl}-amide | 98 mg, 65% | C(C(C)C)N(S(=O)(=O)C1=CC=C(C=C1)NC(=O)C1CCN(CC1)S(=O)(=O)C)C1=C(C=CC=C1)C(F)(F)F | C24H30F3N3O5S2
